US09216988B2
To a solution of tert-butylamine (2 g, 27.3 mmol) in dichloromethane (90 mL) was added N,N-diisopropylethylamine (5.7 mL, 32.8 mmol), followed by phenylmethanesulfonyl chloride (6.25 g, 32.8 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction was then diluted with dichloromethane, washed with water and brine, dried with MgSO4, and purified by silica gel column chromatography (0-50% EtOAc in heptane) to give N-tert-butyl-1-phenyl-methanesulfonamide (4.81 g, 77% yield). 1H NMR (400 MHz, CDCl3) δ 7.51-7.44 (m, 2H), 7.41 (dd, J=4.9, 2.0 Hz, 3H), 4.49 (s, 2H), 4.27 (s, 1H), 1.68 (s, 6H); LCMS (m/z) ES+ 228 [M+1]+.

reactant | tert-butylamine | 27.3 mmol, 2 g | C(C)(C)(C)N | C4H11N
reactant | N,N-diisopropylethylamine | 32.8 mmol, 5.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylmethanesulfonyl chloride | 32.8 mmol, 6.25 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | N-tert-butyl-1-phenyl-methanesulfonamide | 4.81 g, 77% yield | C(C)(C)(C)NS(=O)(=O)CC1=CC=CC=C1 | C11H17NO2S
